US06552067B2
To a solution of 5-(3-hydroxy-4-phenyl-butyl)-pyrrolidin-2-one (4.3 g, 18.43 mmol) in DMF (86 mL) was added tert-butyldimethylsilyl chloride (3.06 g, 20.3 mmol) followed by imidazole (2.5 g, 37 mmol) and DMAP (225 mg). The reaction mixture was stirred for 24 h and was quenched with saturated aqueous ammonium chloride. The aqueous solution was washed with EtOAc (3×) and the combined organic extracts were dried (MgSO4), filtered and concentrated. The residue was purified by medium pressure chromatography eluting with a solvent gradient (CH2Cl2 to 1% MeOH in CH2Cl2to 2% MeOH in CH2Cl2) to yield 5.94 g of 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-pyrrolidin-2-one. 1H NMR (CDCl3) δ7.26-7.10 (m, 5H), 5.68 (m, 1H), 3.83 (m, 1H), 3.54 (m, 1H), 2.69 (m, 2H), 2.30-2.16 (m, 3H), 1.66-1.35 (m, 5H), 0.82 (s, 9H), −0.06 (d, 3H), −0.2 (d, 3H).

reactant | 5-(3-hydroxy-4-phenyl-butyl)-pyrrolidin-2-one | 18.43 mmol, 4.3 g | OC(CCC1CCC(N1)=O)CC1=CC=CC=C1 | C14H19NO2
reactant | tert-butyldimethylsilyl chloride | 20.3 mmol, 3.06 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 37 mmol, 2.5 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 86 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 225 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-pyrrolidin-2-one | 5.94 g | C(C)(C)(C)[Si](OC(CCC1CCC(N1)=O)CC1=CC=CC=C1)(C)C | C20H33NO2Si
